US08975254B2
c) (S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(morpholinomethyl)isoxazole-3-carboxamide
The title compound was synthesized from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile (0.2 g, 0.72 mmol), 5-(morpholinomethyl)isoxazole-3-carboxylic acid (0.15 g, 0.72 mmol), HOBt (0.145 g, 1.07 mmol), DIPEA (0.37 mL, 2.15 mmol) and EDCI (0.2 g, 1.07 mmol) using DMF (10 mL) as the solvent using the method of Example 34(d). Yield 72 mg. 1H NMR (400 MHz; d6-DMSO): δ 1.17 (d, 3H), 2.39 (m, 4H), 3.56 (m, 4H), 3.71 (s, 2H), 4.34 (m, 2H), 4.46 (m, 1H), 6.62 (s, 1H), 6.76 (m, 1H), 7.83 (m, 1H), 7.88 (d, 1H), 8.03 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile | 0.72 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)F)C | C13H12ClFN4
reactant | 5-(morpholinomethyl)isoxazole-3-carboxylic acid | 0.72 mmol, 0.15 g | O1CCN(CC1)CC1=CC(=NO1)C(=O)O | C9H12N2O4
reactant | HOBt | 1.07 mmol, 0.145 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.15 mmol, 0.37 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.07 mmol, 0.2 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(morpholinomethyl)isoxazole-3-carboxamide | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CN1CCOCC1)F | C22H22ClFN6O3
